US06355683B1
Solid NaBH4 (28 mg, 0.74 mmol) was added in one portion to a solution of 3-formyl-4-iodo-2-methoxypyridine (prepared according to the method of Fang et al., J. Org. Chem., 1994, 59, 6142) (98 mg, 0.37 mmol) in methanol (4 mL) at −5° C. Vigorous bubbling was observed and the yellow reaction solution turned colorless. The reaction was immediately quenched by the addition of water (2 mL) and the methanol was removed under reduced pressure. The resulting residue was diluted with ethyl acetate (20 mL) and water (20 mL). The aqueous layer was separated and extracted with ethyl acetate (3×10 mL). The organic fractions were combined, dried (MgSO4), filtered and concentrated to give 3-(hydroxymethyl)-4-iodo-2-methoxypyridine as a colorless, crystalline solid. This material was used in the next reaction without further purification. R/0.4 (30% ethyl acetate/petrol elution). MS (APCI, m/z 266 (M++1, 100%). 1H NMR (200 MHz, CDCl3): δ3.98 (s, 3H), 4.80 (s, 2H), 7.34 (d, J=4.0 Hz, 1H), 7.70 (d, J=4.0 Hz, 1H).

reactant | NaBH4 | 0.74 mmol, 28 mg | [BH4-].[Na+]
reactant | 3-formyl-4-iodo-2-methoxypyridine | C(=O)C=1C(=NC=CC1I)OC | C7H6INO2
solvent | methanol | 4 mL | CO | CH4O
product | 3-(hydroxymethyl)-4-iodo-2-methoxypyridine | OCC=1C(=NC=CC1I)OC | C7H8INO2
